US06562846B2
7-(2-Methyl-4,5-diphenyl-imidazol-1-yl)-heptanoic acid ethyl ester:
(Scheme 1, (B)) To a solution of 2-methyl-4,5-diphenyl-1H-imidazole (0.20 g, 0.85 mmol) in DMF (6 mL) was added NaH (60% in mineral oil, 0.038 g, 0.94 mmol). The resulting mixture was stirred at rt for 10 min. The stirring continued for 2 hours after addition of ethyl 7-bromoheptanoate (0.21 g, 0.90 mmol). The reaction mixture was diluted with diethyl ether (30 mL), washed by water, and then was dried over MgSO4. After filtration and concentration in vacuo, the residue was purified by flash chromatography (SiO2: EtOAc/Hexanes). This compound was obtained as a colorless oil (0.24 g, 0.61 mmol, 72% yield): 1H NMR (DMSO-d6) δ1.08 (m, 4H), 1.15 (t, J=7.2 Hz, 3H), 1.33 (m, 4H), 2.16 (t, J=6.6 Hz, 2H), 2.40 (s, 3H), 3.68 (t, J=7.8 Hz, 2H), 4.03 (q, J=4.5 Hz, 2H), 7.05)m, 1H), 7.13 (m, 2H), 7.34 (m, 4H), 7.48 (m, 3H); 13C NMR (DMSO-d6) δ13.4, 14.4, 24.3, 25.7, 27.8, 29.6, 33.5, 43.3, 59.9, 125.8, 126.0, 128.1, 128.3, 128.8, 129.3, 131.1, 131.8, 135.2, 135.3, and 144.0. Anal. Calcd for C25H30N2O2: C, 76.89; H, 7.74; N, 7.17. Found: C, 76.33; H, 7.67, N, 6.85.

reactant | 2-methyl-4,5-diphenyl-1H-imidazole | 0.85 mmol, 0.20 g | CC=1NC(=C(N1)C1=CC=CC=C1)C1=CC=CC=C1 | C16H14N2
reactant | NaH | 0.94 mmol, 0.038 g | [H-].[Na+]
reactant | ethyl 7-bromoheptanoate | 0.90 mmol, 0.21 g | BrCCCCCCC(=O)OCC | C9H17BrO2
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
product | 7-(2-Methyl-4,5-diphenyl-imidazol-1-yl)-heptanoic acid ethyl ester | 0.61 mmol, 0.24 g, 72% yield | C(C)OC(CCCCCCN1C(=NC(=C1C1=CC=CC=C1)C1=CC=CC=C1)C)=O | C25H30N2O2
